US08871753B2
Step A: N-(3-Aminophenyl)-3-nitrobenzamide hydrochloride
tert-Butyl {3-[(3-nitrobenzoyl)amino]phenyl}carbamate (0.60 g, 1.7 mmol) was mixed with 4 M of hydrogen chloride in 1,4-dioxane (7 mL) and stirred at rt for 2 h. After concentration, the desired white powder solid product (0.49 g, 99%) as a HCl salt was used in the next step. MF=C13H11N3O3; LCMS calculated for C13H11N3O3 (M+H)+: m/z=258.0. 1H NMR (400 MHz, CD3OD): δ 8.82 (t, J=2.0 Hz, 1H), 8.46 (ddd, J=8.4, 2.4, 1.2 Hz, 1H), 8.36 (ddd, J=8.4, 2.4, 1.2 Hz, 1H), 8.21 (t, J=2.0 Hz, 1H), 7.80 (t, J=8.0 Hz, 1H), 7.68 (ddd, J=8.0, 4.0, 2.4, 1H), 7.54 (t, J=8.4 Hz, 1H), 7.19 (ddd, J=8.0, 2.0, 1.2 Hz, 1H).

reactant | tert-Butyl {3-[(3-nitrobenzoyl)amino]phenyl}carbamate | 1.7 mmol, 0.60 g | [N+](=O)([O-])C=1C=C(C(=O)NC=2C=C(C=CC2)NC(OC(C)(C)C)=O)C=CC1 | C18H19N3O5
reactant | hydrogen chloride | 4 M | Cl | ClH
solvent | 1,4-dioxane | 7 mL | O1CCOCC1 | C4H8O2
product | N-(3-Aminophenyl)-3-nitrobenzamide hydrochloride | Cl.NC=1C=C(C=CC1)NC(C1=CC(=CC=C1)[N+](=O)[O-])=O | InChI=1S/C13H11N3O3.ClH/c14-10-4-2-5-11(8-10)15-13(17)9-3-1-6-12(7-9)16(18)19;/h1-8H,14H2,(H,15,17);1H
